US07855213B2
3-(3-Bromo-phenyl)-3-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-3H-isoindol-1-ylamine (Scheme #6, Q)
To a −78° C. cooled solution of (4-bromo-phenoxy)-tert-butyl-dimethyl-silane (3.82 mL, 15.61 mmol) in tetrahydrofuran (50 mL) was added 2.5 M n-butyllithium in hexanes (6.2 mL, 15.61 mmol) and the anion stirred 20 minutes. At the same time in a separate round bottom flask containing 1,3-dibromobenzene (2.83 mL, 23.41 mmol) and tetrahydrofuran (50 mL) cooled in a −78° C. bath was added 2.5 M n-butyllithium in hexanes (9.37 mL, 23.41 mmol) and the anion stirred 20 minutes. The first anion was cannulated into a −78° C. solution of 1,2-dicyanobenzene (2.00 g, 15.61 mmol) in tetrahydrofuran (20 mL) and this mixture stirred 10 minutes. The second anion was cannulated into the reaction and the mixture stirred 45 minutes. The reaction was poured into saturated ammonium chloride (100 mL) and extracted twice with ethyl acetate. The combined organic layers were washed with aqueous saturated sodium chloride, dried over magnesium sulfate and removed of solvent under reduced pressure to give an amber foam. The crude material was placed on a 180 g silica gel column and eluted with a gradient of dichloromethane to dichloromethane/methanol (9:1) over 30 minutes at 40 mL/min and the combined purified fractions were removed of solvent under reduced pressure to give the titled compound as a off white solid (1.64 g, 21%). 1H NMR (300 MHz, DMSO-d6) δ 7.69 (d, J=7.4 Hz, 1 H), 7.60-7.47 (m, 3 H), 7.42 (s, 2 H), 7.28 (d, J=7.5 Hz, 2 H), 7.14 (d, J=8.6 Hz, 2 H), 6.76 (d, J=8.6 Hz, 2 H), 0.92 (s, 9 H), 0.16 (s, 6 H); MS (APCI+) m/z 493 [M+1]+; tR=2.79 min.

reactant | (4-bromo-phenoxy)-tert-butyl-dimethyl-silane | 15.61 mmol, 3.82 mL | BrC1=CC=C(O[Si](C)(C)C(C)(C)C)C=C1 | C12H19BrOSi
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | 1,3-dibromobenzene | 23.41 mmol, 2.83 mL | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | 1,2-dicyanobenzene | 15.61 mmol, 2.00 g | C(#N)C1=C(C=CC=C1)C#N | C8H4N2
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-(3-Bromo-phenyl)-3-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-3H-isoindol-1-ylamine | BrC=1C=C(C=CC1)C1(N=C(C2=CC=CC=C12)N)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C | C26H29BrN2OSi
